US06660744B1
4-Bromo-2-methoxybenzonitrile (7.35 g, 35 mmol) was dissolved in dioxane (400 mL). Sodium hydroxide (2.0 N, 200 mL) was added and the suspension was heated at 100° C. for 16 hours. Organic solvent was removed under reduced pressure and the aqueous mixture was filtered and washed with water. The filtrate was neutralized with hydrochloric acid (5.0N) to pH 1. The solid was collected by filtration to give 4-bromo-2-methoxybenzoic acid (3 g, 37%). 1H NMR (DMSO-d6) δ 3.84 (s, 3H), 7.21 (d, J=8.25 Hz, 1H), 7.33 (s, 1H), 7.58 (d, J=8.23 Hz, 1H).

reactant | 4-Bromo-2-methoxybenzonitrile | 35 mmol, 7.35 g | BrC1=CC(=C(C#N)C=C1)OC | C8H6BrNO
reactant | Sodium hydroxide | 2.0 N, 200 mL | [OH-].[Na+]
reactant | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 4-bromo-2-methoxybenzoic acid | 3 g, 37% | BrC1=CC(=C(C(=O)O)C=C1)OC | C8H7BrO3
